US09216967B2
2,3-dimethylphenyl 4-nitrophenyl ether
In a microwave vial 1-fluoro-4-nitrobenzene (500 mg, 3.54 mmol) was dissolved in N,N-Dimethylformamide (10 mL) to give a pale yellow solution. Potassium carbonate (1469 mg, 10.63 mmol) and 2,3-dimethylphenol (433 mg, 3.54 mmol) were added. The reaction vessel was sealed and heated in Biotage Initiator at 100° C. for 1 hour. After cooling the reaction was diluted with 25 mL of Et2O. The organic phase was washed with 3 times 25 mL of water, 10 mL of saturated brine, dried over sodium sulphate, filtered and evaporated under vacuum to afford the title compound as a yellow solid (865.1 mg).

reactant | 1-fluoro-4-nitrobenzene | 3.54 mmol, 500 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Potassium carbonate | 10.63 mmol, 1469 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dimethylphenol | 3.54 mmol, 433 mg | CC1=C(C=CC=C1C)O | C8H10O
solvent | N,N-Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | 2,3-dimethylphenyl 4-nitrophenyl ether | 865.1 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC1=C(C(=CC=C1)C)C | C14H13NO3
